US04464300
A solution of 18.5 g of sodium borohydride in 125 ml of water is added dropwise at 20° to 25° within 20 minutes to a solution of 124.8 g of 2-amino-5-chloro-2'-fluorobenzophenone. The mixture is stirred for a further 16 hours. 250 ml of methanol are then added thereto and the mixture is heated to boiling under reflux for 15 minutes. After evaporation of the organic solvent, the residue is diluted with water, whereupon the mixture is acidified with hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solutions are washed, dried, concentrated to 100 ml in vacuo and subsequently treated with 300 ml of petroleum ether. There is obtained crystalline 2-amino-5-chloro-2'-fluorobenzhydrol of melting point 97°-99°.

reactant | sodium borohydride | 18.5 g | [BH4-].[Na+]
reactant | 2-amino-5-chloro-2'-fluorobenzophenone | 124.8 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C13H9ClFNO
reactant | methanol | 250 ml | CO | CH4O
solvent | water | 125 ml | O | H2O
product | 2-amino-5-chloro-2'-fluorobenzhydrol | NC1=C(C(C2=C(C=CC=C2)F)O)C=C(C=C1)Cl | C13H11ClFNO
